US08912188B2
To a solution of (S)-methyl 7-hydroxy-2-(1H-indazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (120 mg, 0.30 mmol) in methanol (10 ml) was added NaOH (48 mg, 1.27 mmol) and water (1 ml). The resulting solution was stirred overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (15 ml) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford (S)-7-hydroxy-2-(1H-indazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (65.6 mg, 56%).

reactant | (S)-methyl 7-hydroxy-2-(1H-indazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.30 mmol, 120 mg | OC1=C(C=C2N=C(C(=NC2=C1)C=1C=C2C=NNC2=CC1)N1[C@H](CCC1)C)C(=O)OC | C22H21N5O3
reactant | NaOH | 1.27 mmol, 48 mg | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | (S)-7-hydroxy-2-(1H-indazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 65.6 mg, 56% | OC1=C(C=C2N=C(C(=NC2=C1)C=1C=C2C=NNC2=CC1)N1[C@H](CCC1)C)C(=O)O | C21H19N5O3
